US08426447B2
A 25-mL flask was charged with (S)-2′-amino-3-p-tolyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (259.36 mg, 0.722 mmol) in DCM (7217 μL) to give an clear, orange solution. triethylamine (201 μL, 1.443 mmol) and 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (271 mg, 0.758 mmol) were added in sequence. The mixture was stirred for 4 hours before being loaded directly onto a 25-g silica gel loading column with the aid of DCM. The column was eluted onto a prequilibrated 40-g Redi-Sep column with 0-5% MeOH/DCM to give (S)-2′-amino-3-p-tolyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate (317.34 mg, 0.646 mmol, 89% yield) as a cream-colored solid

reactant | (S)-2′-amino-3-p-tolyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 0.722 mmol, 259.36 mg | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)C1=CC=C(C=C1)C)O | C21H17N3O3
reactant | triethylamine | 1.443 mmol, 201 μL | C(C)N(CC)CC | C6H15N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 0.758 mmol, 271 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | DCM | 7217 μL | C(Cl)Cl | CH2Cl2
product | (S)-2′-amino-3-p-tolyl-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | 0.646 mmol, 317.34 mg, 89% yield | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C1=CC=C(C=C1)C)(F)F | C22H16F3N3O5S
